US03937838
h. 3,5-Dibenzyloxyacetophenone
5.0 g of 50% sodium hydride suspension and a few ml of benzene were introduced in a 500 ml three-necked flask, supplied with a stirrer, reflux condenser and dropping funnel. 18.1 g of ethyl 3,5-dibenzyloxybenzoate in 150 ml of dry benzene were added. The reaction mixture was stirred and heated on an oil bath (90°-100°C.), and 4.5 g of ethyl acetate in 25 ml of dry benzene were slowly added and then heated and stirred for 7 hours. The reaction mixture was cooled. A few ml of ethanol were added and the whole was then poured into 150 ml of 50% acetic acid solution. The acidic water phase was extracted with ether. The ether phase was washed with water, sodium bicarbonate solution and water, and then dried with magnesium sulphate. After evaporation an oil was recovered. This oil was treated with 80 ml of dioxane, 16 ml of water and 8 ml of concentrated hydrochloric acid and the mixture was heated on an oil bath at 130°-140°C. for 15 hours. After evaporation, ether was added and the ether phase washed with water, 2-N sodium hydroxide solution and water. The ether phase was then evaporated and the residue was dissolved in hot ethanol and 200 ml of 1-N sodium hydroxide solution was added. The mixture was refluxed for 5 hours in order to hydrolyze remaining ethyl 3,5-dibenzyloxybenzoate. The ethanol was evaporated and the water phase extracted with ether. The ether phase was washed with water, dried with magnesium sulphate and evaporated. The remaining oil crystallized from petroleum ether (B.p. 80°-110°C.). M.p. 61.5°-62.0°C.

reactant | sodium hydride | 5.0 g | [H-].[Na+]
reactant | ethyl 3,5-dibenzyloxybenzoate | 18.1 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1)OCC1=CC=CC=C1 | C23H22O4
reactant | ethyl acetate | 4.5 g | C(C)(=O)OCC | C4H8O2
reactant | ethanol | C(C)O | C2H6O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3,5-Dibenzyloxyacetophenone | CC(=O)C1=CC(=CC(=C1)OCC2=CC=CC=C2)OCC3=CC=CC=C3 | C22H20O3
